US07034042B2
A solution of (R)-3-[(E)-3-(5-cyano-2-methoxy-phenyl)-acryloylamino]-4-[4-(4-fluoro-phenoxy)-piperidin-1-yl]-butyric acid benzyl ester (1.43 g, 2.52 mmol) in methanol (15 ml) is treated with NaOH solution, (2.5 ml, 4M). The reaction mixture is stirred at ambient temperature for 1 hour. The methanol is evaporated and the resulting aqueous solution diluted with water and washed with diethyl ether. The aqueous phase is neutralised with 1N HCl solution and extracted into isopropanol/chloroform (1:3). The organic phase is evaporated and dried under high vacuum to afford (R)-3-[(E)-3-(5-cyano-2-methoxy-phenyl)-acryloylamino]-4-[4-(4-fluoro-phenoxy)-piperidin-1-yl]-butyric acid. [MH]+ 482.1.

reactant | (R)-3-[(E)-3-(5-cyano-2-methoxy-phenyl)-acryloylamino]-4-[4-(4-fluoro-phenoxy)-piperidin-1-yl]-butyric acid benzyl ester | 2.52 mmol, 1.43 g | C(C1=CC=CC=C1)OC(C[C@H](CN1CCC(CC1)OC1=CC=C(C=C1)F)NC(\C=C\C1=C(C=CC(=C1)C#N)OC)=O)=O | C33H34FN3O5
reactant | NaOH | 4M, 2.5 ml | [OH-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | (R)-3-[(E)-3-(5-cyano-2-methoxy-phenyl)-acryloylamino]-4-[4-(4-fluoro-phenoxy)-piperidin-1-yl]-butyric acid | C(#N)C=1C=CC(=C(C1)/C=C/C(=O)N[C@H](CC(=O)O)CN1CCC(CC1)OC1=CC=C(C=C1)F)OC | C26H28FN3O5
